US06423717B1
1-(4-Bromo-3-nitrophenyl)-4-methylpiperazine (D26)
A solution of 1-methyl-4-(3-nitrophenyl)piperazine (EP0533267A) (1.0 g; 4.5 mmol) in glacial acetic acid (25 ml) was treated with bromine (0.23 ml; 1 equivalent). The reaction mixture was stirred at 75° overnight, then cooled, filtered, and the yellow sticky solid was partitioned between potassium carbonate (aq) and 2% methanol in dichloromethane. The organic phase was dried (Na2SO4) and evaporated under reduced pressure to leave the title compound (D26) as a viscous orange oil (928 mg, 68%) MH+=300/302.

reactant | 1-methyl-4-(3-nitrophenyl)piperazine | 4.5 mmol, 1.0 g | CN1CCN(CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C11H15N3O2
reactant | bromine | 0.23 ml, 1 equivalent | BrBr | Br2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1-(4-Bromo-3-nitrophenyl)-4-methylpiperazine | BrC1=C(C=C(C=C1)N1CCN(CC1)C)[N+](=O)[O-] | C11H14BrN3O2
